US05506256
To (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine (3.00 g) in methanol (100 ml) were added thiophenol (1.5 ml) and triethylamine (2.0 ml), followed by 2 hour' stirring under reflux. The reaction mixture was concentrated and the residue was purified by silica gel column chromatography (eluate: hexane-ethyl acetate) to give 4.14 g of (2S)-1-(t-butoxycarbonyl)-2-[1-hydroxy-2-(phenylthio)ethyl]pyrrolidine.

reactant | (2S)-1-(t-butoxycarbonyl)-2-(1,2-epoxyethyl)pyrrolidine | 3.00 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C1CO1 | C11H19NO3
reactant | thiophenol | 1.5 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
product | (2S)-1-(t-butoxycarbonyl)-2-[1-hydroxy-2-(phenylthio)ethyl]pyrrolidine | 4.14 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(CSC1=CC=CC=C1)O | C17H25NO3S
